US08012966B2
A suspension of 5-fluoro-1,3-dihydro-indol-2-one (1.5 g, 10 mmol) in 15 ml of acetonitrile and N-bromosuccinimide (1.8 g, 10 mmol) was stirred at room temperature overnight until the precipitate was formed. The solid was filtered washed with ethanol (5 ml) and dried in vacuo to give 7-bromo-5-fluoro-1,3-dihydro-indol-2-one (1.6 g, 69.6%) as a white solid.

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 10 mmol, 1.5 g | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | N-bromosuccinimide | 10 mmol, 1.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 7-bromo-5-fluoro-1,3-dihydro-indol-2-one | 1.6 g, 69.6% | BrC=1C=C(C=C2CC(NC12)=O)F | C8H5BrFNO
